US05733922
2,4-bis-(8-quinolinylmethylthio)-5,5-dimethyl-5H-imidazole
Initially, 3 g of 8-bromomethylquinoline was added to a solution of 1 g of 5,5-dimethyl-2,4-dithiohydantoin in 50 mL of ethanol (EtOH). The reaction mixture was stirred at the room temperature for 1.5 hour, and concentrated in vacuo. To the residue, 100 mL of CHCl3 was added. The mixture was washed with an aqueous solution of K2CO3, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatograph (CHCl3). Recrystallization from diethyl ether gave the desired compound in the form of a needle-like crystal. The yield of this compound was 2.3 g with a yield ratio of 83.3%, and the melting point was 101°-104° C.

reactant | 8-bromomethylquinoline | 3 g | BrCC=1C=CC=C2C=CC=NC12 | C10H8BrN
reactant | 5,5-dimethyl-2,4-dithiohydantoin | 1 g | CC1(C(NC(N1)=S)=S)C | C5H8N2S2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2,4-bis-(8-quinolinylmethylthio)-5,5-dimethyl-5H-imidazole | N1=CC=CC2=CC=CC(=C12)CSC1=NC(C(=N1)SCC=1C=CC=C2C=CC=NC12)(C)C | C25H22N4S2
